US05389649
A stirred solution of sodium ethoxide (4.6 g of sodium in 100 ml ethanol) was treated with 2-mercaptoethanol (7.8 g, 0.1 mol) followed by 3-chloromethylpyridine hydrochloride (16.4 g, 0.1 mol). The mixture was then refluxed under argon for 3.5 hours, filtered and evaporated in vacuo and the residue purified by flash chromatography on silica, eluting with 3% methanol in ethyl acetate, to give 2-(3-pyridylmethylthio)ethanol (13 g), as a yellow oil;

reactant | 2-mercaptoethanol | 0.1 mol, 7.8 g | SCCO | C2H6OS
reactant | 3-chloromethylpyridine hydrochloride | 0.1 mol, 16.4 g | Cl.ClCC=1C=NC=CC1
solvent | sodium ethoxide | 100 ml, 4.6 g | [O-]CC.[Na+]
product | 2-(3-pyridylmethylthio)ethanol | 13 g | N1=CC(=CC=C1)CSCCO | C8H11NOS
